US07709483B2
(d) 7-Fluoro-6-hydroxy-6-(hydroxymethyl)-1,2,5,6-tetrahydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one
A solution of methyl 7-fluoro-6-hydroxy-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxaline-6-carboxylate (0.558 g, 0.002 mol) in methanol (40 mL) was cooled to 0° C. and treated with sodium borohydride (0.080 g, 0.002 mol). After 2 hours and again after a further 2 hours, further portions of sodium borohydride (0.04 g, 0.5 equivalent each time) were added at 0° C. After 5 hours in total, the reaction mixture was quenched by addition of water (2 mL) and the solvent was removed. The residue was placed directly onto the top of a 20 g silica gel column and chromatographed, eluting with a 0-100% ethyl acetate in hexane gradient, then with a 0-50% methanol in ethyl acetate gradient to afford the product (0.331 g, 66%).

reactant | methyl 7-fluoro-6-hydroxy-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxaline-6-carboxylate | 0.002 mol, 0.558 g | FC1=C2C=3N(C(C=NC3C=C1)=O)CC2(C(=O)OC)O | C12H9FN2O4
reactant | sodium borohydride | 0.002 mol, 0.080 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.04 g, 0.5 equivalent | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 7-Fluoro-6-hydroxy-6-(hydroxymethyl)-1,2,5,6-tetrahydro-3H-pyrrolo[1,2,3-de]quinoxalin-3-one | 0.331 g, 66% | FC1=C2C=3N(C(CNC3C=C1)=O)CC2(CO)O | C11H11FN2O3
